US07365174B2
In an amount of 10.2 g of 3-bromoquinoline was stirred together with 7 ml of methyl acrylate, 110 mg of palladium(II) acetate, 599 mg of tri-o-tolylphosphine, and 29 ml of triethylamine at 100° C. for 17 hours in a sealed tube. The reaction mixture was diluted with 300 ml of chloroform, and successively washed with 250 ml of saturated brine, and 250 ml of saturated aqueous ammonium chloride. The organic layer was dried over anhydrous sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in 80 ml of chloroform, added with 200 ml of hexane under ice cooling, and stirred for 30 minutes. The precipitates were taken by filtration, washed with hexane, and then dried under reduced pressure to obtain 8.0 g of methyl (E)-3-(quinolin-3-yl)acrylate. Physicochemical Properties of this Compound

reactant | 3-bromoquinoline | 10.2 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | methyl acrylate | 7 ml | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 599 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium(II) acetate | 110 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl (E)-3-(quinolin-3-yl)acrylate | 8.0 g | N1=CC(=CC2=CC=CC=C12)/C=C/C(=O)OC | C13H11NO2
